US04309435
A mixture of 1-[2-(2-guanidinothiazol-4-ylmethylthio)ethylamino]-2-methoxycyclobutene-3,4-dione (0.17 g), 4-aminomethylpyridine (0.054 g), methanol (5 ml) and dimethyl formamide (3 ml) was stirred at room temperature for seven days. Evaporation of the solution gave a yellow oil which crystallized on scratching; this was triturated with ethanol and filtered to give 1-[2-(2-guanidinothiazol-4-ylmethylthio)ethylamino]-2-(4-pyridylmethylamino)-cyclobutene-3,4-dione, m.p. 172°-175°.

reactant | 1-[2-(2-guanidinothiazol-4-ylmethylthio)ethylamino]-2-methoxycyclobutene-3,4-dione | 0.17 g | N(C(=N)N)C=1SC=C(N1)CSCCNC1=C(C(C1=O)=O)OC | C12H15N5O3S2
reactant | 4-aminomethylpyridine | 0.054 g | NCC1=CC=NC=C1 | C6H8N2
reactant | methanol | 5 ml | CO | CH4O
solvent | dimethyl formamide | 3 ml | CN(C=O)C | C3H7NO
product | 1-[2-(2-guanidinothiazol-4-ylmethylthio)ethylamino]-2-(4-pyridylmethylamino)-cyclobutene-3,4-dione | N(C(=N)N)C=1SC=C(N1)CSCCNC1=C(C(C1=O)=O)NCC1=CC=NC=C1 | C17H19N7O2S2
